US06812226B2
(i) 2-Bromo-N-(1-methylethyl)-1,3-thiazole4-carboxamide
The product was prepared from 2-bromo-N-(1-methylethyl)-1,3-thiazole-4-carboxylic acid (WO 9848799) (0.77 g), carbonyldiimidazole (0.66 g) and isopropylamine (0.24 g) using the method of example 115 step (i). Yield 0.82 g.

reactant | 2-bromo-N-(1-methylethyl)-1,3-thiazole-4-carboxylic acid | 0.77 g | BrC1SC=C(N1C(C)C)C(=O)O | C7H10BrNO2S
reactant | carbonyldiimidazole | 0.66 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | isopropylamine | 0.24 g | C(C)(C)N | C3H9N
product | 2-Bromo-N-(1-methylethyl)-1,3-thiazole4-carboxamide | BrC=1SC=C(N1)C(=O)NC(C)C | C7H9BrN2OS
